### PR TITLE
feat(MachineLearning/PACLearning): add VersionSpace abstraction

### PR DESCRIPTION
**Pull request by Zetetic-Dhruv**
Adds the classical version space abstraction (Mitchell 1982, Angluin 1980) as a companion to the PAC learning definitions from #492.

- `VersionSpace C S`: the subset of `C` whose concepts agree with `S` on every sample point
- `versionSpace_subset`, `versionSpace_empty_sample`: sanity lemmas
- `versionSpace_antitone`: more data gives a smaller version space
- `IsConsistent A C`: predicate on learners whose output always lies in the version space
- `mem_versionSpace_of_realizable`, `versionSpace_nonempty_of_realizable`: realizable-case bridge

Foundation for downstream proofs (Sauer-Shelah, PAC lower bounds, infinite NFL).

### CODE REVIEW

**Comment by Zetetic-Dhruv** [comment]
@SamuelSchlesinger

File: Cslib/MachineLearning/PACLearning/VersionSpace.lean [hunk 1]
```diff
@@ -0,0 +1,126 @@
...
+    {C : ConceptClass α β} (hA : IsConsistent A C) (S : LabeledSample α β m)
+    (i : Fin m) :
+    A S (S i).1 = (S i).2 := (hA S).2 i
+
+/-! ### Realizable case -/
+
+/-- *Realizable version-space nonemptiness.* If a target concept `c` lies in
+`C` and the sample `S` is labeled by `c` (i.e. every `(S i).2 = c (S i).1`),
+then `c` itself lies in the version space `VersionSpace C S`. -/
+theorem mem_versionSpace_of_realizable {m : ℕ} {C : ConceptClass α β}
```
Comment (SamuelSchlesinger) [inline Cslib/MachineLearning/PACLearning/VersionSpace.lean:243]: Lets take `c` implicit here to match the following theorem.

File: Cslib/MachineLearning/PACLearning/VersionSpace.lean [hunk 2]
```diff
@@ -0,0 +1,126 @@
...
+Authors: Dhruv Gupta
+-/
+
+module
+
+public import Cslib.MachineLearning.PACLearning.Defs
+
+@[expose] public section
+
+/-! # Version Space
```
Comment (SamuelSchlesinger) [inline Cslib/MachineLearning/PACLearning/VersionSpace.lean:13]: Lets move this above the section to match the rest of the files in cslib.

File: Cslib/MachineLearning/PACLearning/VersionSpace.lean [hunk 3]
```diff
@@ -0,0 +1,126 @@
...
+  ∀ S : LabeledSample α β m, A S ∈ VersionSpace C S
+
+/-- A consistent learner's output is always in the concept class. -/
+theorem IsConsistent.output_mem_conceptClass {m : ℕ} {A : Learner α β m}
+    {C : ConceptClass α β} (hA : IsConsistent A C) (S : LabeledSample α β m) :
+    A S ∈ C := (hA S).1
+
+/-- A consistent learner's output agrees with the sample on every observed
+point. -/
+theorem IsConsistent.output_consistent {m : ℕ} {A : Learner α β m}
```
Comment (SamuelSchlesinger) [inline Cslib/MachineLearning/PACLearning/VersionSpace.lean]: Lets rename this to `output_agrees` or just `output` cause `Consistent` is already in the namespace.

File: references.bib [hunk 4]
```diff
@@ -370,3 +370,33 @@ @incollection{WinskelNielsen1995
...
+@article{Mitchell1982,
+  author       = {Mitchell, Tom M.},
+  title        = {Generalization as Search},
+  journal      = {Artificial Intelligence},
+  volume       = {18},
+  number       = {2},
+  pages        = {203--226},
+  year         = {1982},
+  doi          = {10.1016/0004-3702(82)90040-6}
+}
```
Comment (SamuelSchlesinger) [inline references.bib:404]: I think we should cite "Version Spaces: A Candidate Elimination Approach to Rule Learning" instead, or at least in addition.

File: Cslib/MachineLearning/PACLearning/VersionSpace.lean [hunk 5]
```diff
@@ -0,0 +1,126 @@
...
+  refine ⟨fun hh => hh.1, fun hh => ⟨hh, fun i => i.elim0⟩⟩
+
+/-- *Version space antitonicity.* Given a sample of size `n` and `m ≤ n`, the
+version space on all `n` observations is a subset of the version space on the
+first `m` observations. More data never enlarges the version space. -/
+theorem versionSpace_antitone {m n : ℕ} (hmn : m ≤ n) (C : ConceptClass α β)
+    (S : LabeledSample α β n) :
+    VersionSpace C S ⊆ VersionSpace C (fun i => S (Fin.castLE hmn i)) := by
+  intro h hh
+  exact ⟨hh.1, fun i => hh.2 (Fin.castLE hmn i)⟩
```
Comment (SamuelSchlesinger) [inline Cslib/MachineLearning/PACLearning/VersionSpace.lean]: Lets generalize this, something like:

```
  theorem versionSpace_reindex {m n : ℕ} (f : Fin m → Fin n)
      (C : ConceptClass α β) (S : LabeledSample α β n) :
      VersionSpace C S ⊆ VersionSpace C (S ∘ f) :=
    fun _ hh => ⟨hh.1, fun i => hh.2 (f i)⟩
```

this theorem pops out  with `f := Fin.castLE hmn`.

File: Cslib/MachineLearning/PACLearning/VersionSpace.lean (hunk 1 above)
Comment (SamuelSchlesinger) [reply Cslib/MachineLearning/PACLearning/VersionSpace.lean:243]: I also think something like:

```
  theorem ae_mem_versionSpace_of_realizable
      [MeasurableSpace α] [MeasurableSpace β]
      {C : ConceptClass α β} {c : α → β} (hc : c ∈ C) (hcm : Measurable c)
      (P : Measure α) [IsProbabilityMeasure P] (m : ℕ) :
      ∀ᵐ S : LabeledSample α β m
        ∂(Measure.pi (fun _ : Fin m => P.map (fun x => (x, c x)))),
        c ∈ VersionSpace C S := ...
```

might be desirable here?

**Review by SamuelSchlesinger — CHANGES_REQUESTED** [review]
I want to see the bridge that makes this useful: version-space membership is exactly zero empirical error. I think that is what will motivate this PR and make the downstream work easier. The stuff you do have is sound and I appreciate this PR overall, my requests are mostly just stylistic commentary and generalization requests.

**Comment by Zetetic-Dhruv** [comment]
Hope the PR looks better now @SamuelSchlesinger

**Comment by SamuelSchlesinger** [comment]
It looks great, I think the last bit of the bridge is:

```
theorem empiricalError_eq_div [DecidableEq β] {m : ℕ} (hm : 0 < m)
      (h : α → β) (S : LabeledSample α β m) :
      empiricalError h S = (empiricalMiscount h S : ℝ≥0∞) / m
```

Would you implement that? Then it's good to go.

**Comment by Zetetic-Dhruv** [comment]
> It looks great, I think the last bit of the bridge is:
> 
> ```
> theorem empiricalError_eq_div [DecidableEq β] {m : ℕ} (hm : 0 < m)
>       (h : α → β) (S : LabeledSample α β m) :
>       empiricalError h S = (empiricalMiscount h S : ℝ≥0∞) / m
> ```
> 
> Would you implement that? Then it's good to go.

Hey, done as you suggested, sorry for missing this!

**Review by SamuelSchlesinger — APPROVED** [review]

**Comment by Zetetic-Dhruv** [comment]
✔ [126/126] Built mk_all:exe (988ms)
The file 'Cslib.lean' is out of date: run `lake exe mk_all` to update it
Error: Process completed with exit code 1.

Source of error in action

**Comment by Zetetic-Dhruv** [comment]
Regenerated cslib.lean. Can someone rerun the ci-check?

**Comment by SamuelSchlesinger** [comment]
@fmontesi whenever you'd like, we can merge this.

**Review by fmontesi — APPROVED** [review]

**Comment by fmontesi** [comment]
Excellent, thank you!
